US08563565B2
(2) Synthesis of (±)-5-(4-bromo-2-chlorophenyl)-1-(tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylic acid
A mixture of (±)-ethyl 5-(4-bromo-2-chlorophenyl)-1-(tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylate (1.05 g) and a 5 M aqueous sodium hydroxide solution (1.58 mL) was stirred in a mixed solvent of ethanol (20 mL) and water (5 mL) at 60° C. for three hours. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure. 5 M hydrochloric acid was added to the residue, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the desiccant was filtered off. The filtrate was concentrated under reduced pressure to give the title compound (1 g).

reactant | (±)-ethyl 5-(4-bromo-2-chlorophenyl)-1-(tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylate | 1.05 g | BrC1=CC(=C(C=C1)C1=C(C=NN1C1COCC1)C(=O)OCC)Cl | C16H16BrClN2O3
reactant | sodium hydroxide | 5 M, 1.58 mL | [OH-].[Na+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | (±)-5-(4-bromo-2-chlorophenyl)-1-(tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylic acid | 1 g | BrC1=CC(=C(C=C1)C1=C(C=NN1C1COCC1)C(=O)O)Cl | C14H12BrClN2O3
